US04435406
39.0 g of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-dinitro-naphthalene in 1300 ml of methanol were hydrogenated with Raney-nickel in a 2 l hydrogenation flask. The H2 -uptake after 48 hours was 20.7 l (18.8 l=theory). The catalyst was removed by filtration under suction, the solution was again filtered and the filtrate was evaporated in vacuo. The residue was crystallized from isopropanol. There were obtained 26.2 g (85.5% of theory) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-napthalene-diamine of melting point 188°-189° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-dinitro-naphthalene | 39.0 g | CC1(C=2C=C(C(=CC2C(CC1)(C)C)[N+](=O)[O-])[N+](=O)[O-])C | C14H18N2O4
solvent | methanol | 1300 ml | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-napthalene-diamine | 26.2 g, 85.5% | CC1(C=2C=C(C(=CC2C(CC1)(C)C)N)N)C | C14H22N2
